US06884868B1
To a suspension of 4-hydroxy-4-phenylpiperidine (5 g) and triethylamine (4.32 ml) in dichloromethane (50 ml) was added dropwise di-tert-butyldicarbonate (6.16 g) in dichloromethane (6 ml) under ice-cooling. The reaction mixture was then stirred for 4 hours at ambient temperature. The reaction mixture was pulverized with water. The organic layer was separated, washed with brine, dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography over silica using dichloromethane/methyl alcohol (30:1) as the elution to give 4-hydroxy-4-phenylpiperidine-1-carboxylic acid tert-butyl ester (7.2 g).

reactant | 4-hydroxy-4-phenylpiperidine | 5 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | triethylamine | 4.32 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 6.16 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 4-hydroxy-4-phenylpiperidine-1-carboxylic acid tert-butyl ester | 7.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)O | C16H23NO3
